US06310095B1
N-(Butanesulfonyl)-N-(2-phenylethyl)amine
To a stirred solution at ambient temperature of phenethylamine (200 mg, 1.65 mmol) in CH2Cl2 (2 mL) was added triethylamine (0.35 mL, 2.48 mmol) and butanesulfonyl chloride (0.24 mL, 1.82 mmol). After 4 hours of stirring at ambient temperature, the reaction was diluted with EtOAc and washed with water, 1.0M NaHCO3, and brine. Organic layer dried with Na2SO4, filtered, and concentrated in vacuo.

reactant | phenethylamine | 1.65 mmol, 200 mg | C(CC1=CC=CC=C1)N | C8H11N
reactant | triethylamine | 2.48 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | butanesulfonyl chloride | 1.82 mmol, 0.24 mL | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(Butanesulfonyl)-N-(2-phenylethyl)amine | C(CCC)S(=O)(=O)NCCC1=CC=CC=C1 | C12H19NO2S
